US08372864B2
119 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(3-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved in 5 cm3 of ethyl ether. 0.3 cm3 of a 2N solution of hydrochloric acid in ethyl ether is added while stirring at a temperature of 20° C. The precipitate formed is filtered and dried under vacuum at a temperature of 35° C. 89 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(3-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white powder.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(3-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 119 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)C2=CC(=CC=C2)C#N)=O)C(CCC)CCC)C=C(C1)F | C44H45F5N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 5 cm3 | C(C)OCC | C4H10O
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(3-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 89 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)C2=CC(=CC=C2)C#N)=O)C(CCC)CCC)C=C(C1)F | InChI=1S/C44H45F5N4O3.ClH/c1-3-7-35(8-4-2)53-16-13-36-37(21-30(22-38(36)42(53)56)29-10-5-9-27(17-29)25-50)41(55)52-39(20-28-18-33(45)24-34(46)19-28)40(54)26-51-43(14-15-43)31-11-6-12-32(23-31)44(47,48)49;/h5-6,9-12,17-19,21-24,35,39-40,51,54H,3-4,7-8,13-16,20,26H2,1-2H3,(H,52,55);1H/t39-,40+;/m0./s1
